US08629270B2
N-[2-(5-Fluorothiophen-2-yl)-2-(hydroxyimino)ethyl]-N-(prop-2-en-1-yl)prop-2-en-1-amine
To a stirred solution of 2-(diallylamino)-1-(5-fluoro-2-thienyl)ethanone (4.051 g, 16.93 mmol) in ethanol (34 mL) under nitrogen is added pyridine (4.8 mL, 59.2 mmol) and hydroxylamine hydrochloride (2.94 g, 42.3 mmol). The mixture is heated to 70° C. for 4 hours. The mixture is allowed to cool and then concentrated under reduced pressure. The residue is diluted with ethyl acetate (100 mL) and water (50 mL). The phases are separated and the aqueous phase extracted with ethyl acetate (50 mL). The combined organic extracts are dried over sodium sulfate, filtered, and concentrated to give the title compound (4.25 g, 99%) (approximately a 1.4:1 mixture of oxime isomers by 1H-NMR (CDCl3). ES/MS (m/e): 255 (M+H).

reactant | 2-(diallylamino)-1-(5-fluoro-2-thienyl)ethanone | 16.93 mmol, 4.051 g | C(C=C)N(CC(=O)C=1SC(=CC1)F)CC=C | C12H14FNOS
reactant | pyridine | 59.2 mmol, 4.8 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 42.3 mmol, 2.94 g | Cl.NO
solvent | ethanol | 34 mL | C(C)O | C2H6O
product | N-[2-(5-Fluorothiophen-2-yl)-2-(hydroxyimino)ethyl]-N-(prop-2-en-1-yl)prop-2-en-1-amine | 4.25 g, 99% | FC1=CC=C(S1)C(CN(CC=C)CC=C)=NO | C12H15FN2OS
